US04596666
4.5 g of phenyl 1-amino-4,5,8-trichloroanthraquinone-2-carboxylate and 2 g of anhydrous potassium carbonate are introduced into 100 cc of dimethylformamide, 4 g of 4-methylthiophenol are added, and the mixture is then heated to 80° C. under a gentle stream of nitrogen and is kept at this temperature until the reaction is complete. The reaction mixture is then diluted at 40° C. with 40 cc of water, is allowed to cool completely and is filtered with suction, and the product is washed with a mixture of dimethylformamide and water and then with water. After drying at 60° C., 4.8 g of phenyl 1-amino-4,5,8-tri-(4-methylphenylmercapto)-anthraquinone-2-carboxylate are obtained, corresponding to a yield of 67% of theory.

reactant | phenyl 1-amino-4,5,8-trichloroanthraquinone-2-carboxylate | 4.5 g | NC1=C(C=C(C=2C(C3=C(C=CC(=C3C(C12)=O)Cl)Cl)=O)Cl)C(=O)OC1=CC=CC=C1 | C21H10Cl3NO4
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
reactant | 4-methylthiophenol | 4 g | CC1=CC=C(C=C1)S | C7H8S
solvent | water | 40 cc | O | H2O
product | phenyl 1-amino-4,5,8-tri-(4-methylphenylmercapto)-anthraquinone-2-carboxylate | 4.8 g, yield of 67% | NC1=C(C=C(C=2C(C3=C(C=CC(=C3C(C12)=O)SC1=CC=C(C=C1)C)SC1=CC=C(C=C1)C)=O)SC1=CC=C(C=C1)C)C(=O)OC1=CC=CC=C1 | C42H31NO4S3
